US06900210B2
Step B: (S)-{1-[3-(6-Methyl-pyridin-3-yloxy)-phenyl]-ethyl}-carbamic acid tert-butyl Ester
A mixture of (S)-[1-(3-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester (10 g, 33.3 mol), 5-hydroxy-2-methylpyridine (4 g, 36.7 mol), copper iodide (6.3 g, 33.3 mol), potassium carbonate (9.2 g, 66.7 mol) and pyridine (33 mL) in sealed tube was heated at 145° C. for six days. The reaction was cooled down to room temperature and filtered, the filtrate was washed with H2O and extracted with CH2Cl2 three times, and the combined organic layers were dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with 30:20:1/Hexane:EtOAc:triethylamine to give the title product (3.8 g, 33% yield) as sticky yellow oil.

reactant | (S)-[1-(3-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester | 33.3 mol, 10 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)Br)=O | C13H18BrNO2
reactant | 5-hydroxy-2-methylpyridine | 36.7 mol, 4 g | OC=1C=CC(=NC1)C | C6H7NO
reactant | potassium carbonate | 66.7 mol, 9.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine | 33 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper iodide | 33.3 mol, 6.3 g | [Cu](I)I
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-{1-[3-(6-Methyl-pyridin-3-yloxy)-phenyl]-ethyl}-carbamic acid tert-butyl Ester | 3.8 g, 33% yield | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)OC=1C=NC(=CC1)C)=O | C19H24N2O3
